US07470679B2
2-(S)-(4-Hydroxymethyl-1H-indazol-5-ylmethyl)-succinic acid dimethyl ester
Potassium carbonate (1.6 g, 11.6 mmol) was added to a solution of 2-(S)-(4-acetoxymethyl-1H-indazol-5-ylmethyl)-succinic acid diethyl ester (2.0 g, 5.5 mmol) in methanol (60 mL). Mixture was stirred at room temperature for 1.5 hours. Reaction was quenched with the addition of 1N hydrochloric acid (30 mL). Methanol was removed from the mixture in vacuo. Remaining aqueous was basified with sodium bicarbonate. Mixture was extracted with ethyl acetate (2×40 mL). Combined organic layers were washed successively with water (30 mL) and brine (30 mL). Organic was dried (magnesium sulfate), filtered then concentrated in vacuo. Desired product was obtained in 92% yield as an amber oil. 1H NMR (300 MHz, CDCl3): δ=8.21 ((s, 1H), 7.34 (d, J=9.2, 1H), 7.17 (d, J=8.8, 1H), 5.02 (dd, J1=12.4, J2=17.9, 1H) 3.63 (s, 6H), 3.23 (m, 1H), 2.98 (m, 1H), 2.77 (dd, J1=7.7, J2=16.8, 1H), 2.53 (dd, J1=6.4, J2=16.7, 1H). MS m/e (M+H)+=307.0.

reactant | Potassium carbonate | 11.6 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(S)-(4-acetoxymethyl-1H-indazol-5-ylmethyl)-succinic acid diethyl ester | 5.5 mmol, 2.0 g | C(C)OC([C@H](CC(=O)OCC)CC=1C(=C2C=NNC2=CC1)COC(C)=O)=O | C19H24N2O6
solvent | methanol | 60 mL | CO | CH4O
product | 2-(S)-(4-Hydroxymethyl-1H-indazol-5-ylmethyl)-succinic acid dimethyl ester | 92% yield | COC([C@H](CC(=O)OC)CC=1C(=C2C=NNC2=CC1)CO)=O | C15H18N2O5
